US09388189B2
(S)-tert-Butyl (1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)-3-phenoxypropyl)carbamate
Phenol (6 mg, 0.06 mmol) was dissolved in 450 μl of N,N-dimethylformamide. Potassium carbonate (6 mg, 0.05 mmol) was added and the reaction was stirred at room temperature for 30 min. (S)-tert-Butyl (3-bromo-1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propyl)carbamate (45 mg, 0.03 mmol) and potassium iodide (1 mg, 0.001 mmol) were added and the reaction was heated at 70° C. for 3 h. The mixture was poured into a 4% aqueous sodium bicarbonate and extracted with ethyl acetate. The combined organic phases were washed with water, brine, dried over sodium sulphate and evaporated under reduced pressure. The crude was purified by SP1® Purification System (0% to 50%, hexane-ethyl acetate) to give 8 mg (57% yield) of the title compound. Purity 98%.

reactant | Phenol | 0.06 mmol, 6 mg | C1(=CC=CC=C1)O | C6H6O
reactant | Potassium carbonate | 0.05 mmol, 6 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (S)-tert-Butyl (3-bromo-1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propyl)carbamate | 0.03 mmol, 45 mg | BrCC[C@@H](C1=NN2C(C(N1C1=CC=CC=C1)=O)=CC=C2)NC(OC(C)(C)C)=O | C20H23BrN4O3
reactant | potassium iodide | 0.001 mmol, 1 mg | [I-].[K+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 450 μl | CN(C=O)C | C3H7NO
product | (S)-tert-Butyl (1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)-3-phenoxypropyl)carbamate | 8 mg, 57% yield | O=C1N(C(=NN2C1=CC=C2)[C@H](CCOC2=CC=CC=C2)NC(OC(C)(C)C)=O)C2=CC=CC=C2 | C26H28N4O4
